US06329397B1
To a mixture of 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one (0.10 g, 0.26 mmol) and 2 mL of THF was added 0.2 mL of 1M aqueous HCl. After stirring for 10 min, 0.15 mL of 12M aqueous HCL was added. After stirring for 30 min, TLC indicated no detectable reaction. The mixture was then treated with 2 mL of saturated aqueous LiOH and 2 mL of methanol. After stirring for 20 min at room temperature, the mixture was acidified with 1M HCl, extracted 3× into ethyl acetate, and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo, affording 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-piperidine-2-carboxylic acid (0.10 g) as a colorless syrup:

reactant | 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one | 0.26 mmol, 0.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C2C(OC(C1)CC2)=O | C19H19NO5S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | HCl | 1M, 0.2 mL | Cl | ClH
reactant | LiOH | 2 mL | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-piperidine-2-carboxylic acid | 0.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C(CCC(C1)O)C(=O)O | C19H21NO6S
